US09210927B2
Preparation of (E)-2-(3-Nitro-1H-1,2,4-triazol-1-yl)-5-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzonitrile (DC40)
To a stirred solution of 2-(3-nitro-1H-1,2,4-triazol-1-yl)-5-vinylbenzonitrile (0.9 g, 3.7 mmol) in 1,2-dichlorobenzene (10 mL), were added 5-(1-bromo-2,2,2-trifluoroethyl)-1,2,3-trichlorobenzene (2.5 g, 7.5 mmol), CuCl (73 mg, 0.74 mmol) and 2,2-bipyridyl (0.23 g, 1.49 mmol) and the resultant reaction mixture was degassed with argon for 30 min and then stirred at 180° C. for 14 h. After completion of the reaction (TLC), the reaction mixture was cooled to ambient temperature and filtered and the filtrate was concentrated under reduced pressure. Purification by flash chromatography (SiO2, 100-200 mesh, 25-30% EtOAc in Pet ether) afforded the title compound as an off white solid (0.9 g, 50%): mp 70-73° C.; 1H NMR (300 MHz, CDCl3) δ 8.86 (s, 1H), 7.88 (m, 3H), 7.44 (s, 2H), 6.67 (d, J=16.0 Hz, 1H), 6.56 (dd, J=16.0, 7.6 Hz, 1H), 4.19 (m, 1H); ESIMS m/z 436.11 ([M−2H]−).

reactant | 2-(3-nitro-1H-1,2,4-triazol-1-yl)-5-vinylbenzonitrile | 3.7 mmol, 0.9 g | [N+](=O)([O-])C1=NN(C=N1)C1=C(C#N)C=C(C=C1)C=C | C11H7N5O2
reactant | 5-(1-bromo-2,2,2-trifluoroethyl)-1,2,3-trichlorobenzene | 7.5 mmol, 2.5 g | BrC(C(F)(F)F)C=1C=C(C(=C(C1)Cl)Cl)Cl | C8H3BrCl3F3
reactant | 2,2-bipyridyl | 1.49 mmol, 0.23 g | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
solvent | 1,2-dichlorobenzene | 10 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | CuCl | 0.74 mmol, 73 mg | Cl[Cu]
product | (E)-2-(3-Nitro-1H-1,2,4-triazol-1-yl)-5-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzonitrile | [N+](=O)([O-])C1=NN(C=N1)C1=C(C#N)C=C(C=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C19H9Cl3F3N5O2
